US09353096B2
To a solution of (R)-(3aR)-tetrahydro-1-methyl-3,3-diphenyl-1H,3H-pyrrolo[1,2-c][1,3,2]oxazaborole (295 mg, 1.06 mmol) in THF (10 mL) was added borane in THF (1M, 11 mL, 11 mmol). The resulting solution was stirred and 2-(4-fluoro-3-(trifluoromethyl)phenyl)-2-oxoethyl 4-methylbenzenesulfonate (4.0 g, 10.6 mmol) in THF (30 mL) was added through a dropping funnel over 45 min. The solution was stirred at room temperature for 45 min. The mixture was quenched with methanol (5 mL) and concentrated. The resulting residue was extracted with ethyl acetate and 0.5N hydrochloric acid. The organic layer was dried and concentrated to give toluene-4-sulfonic acid (R)-2-(4-fluoro-3-trifluoromethyl-phenyl)-2-hydroxyethyl ester (3.85 g). 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 2.46 (s, 3H) 3.99-4.19 (m, 2H) 5.03 (dd, J=8.08, 3.54 Hz, 1H) 7.11-7.22 (m, 1H) 7.35 (dd, J=8.59, 0.76 Hz, 2H) 7.49-7.55 (m, 1H) 7.57 (dd, J=6.69, 1.89 Hz, 1H) 7.76 (d, J=8.34 Hz, 2H).

reactant | borane | B | BH3
reactant | 2-(4-fluoro-3-(trifluoromethyl)phenyl)-2-oxoethyl 4-methylbenzenesulfonate | 10.6 mmol, 4.0 g | CC1=CC=C(C=C1)S(=O)(=O)OCC(=O)C1=CC(=C(C=C1)F)C(F)(F)F | C16H12F4O4S
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 11 mmol, 1M, 11 mL | C1CCOC1 | C4H8O
product | toluene-4-sulfonic acid (R)-2-(4-fluoro-3-trifluoromethyl-phenyl)-2-hydroxyethyl ester | 3.85 g | FC1=C(C=C(C=C1)[C@H](COS(=O)(=O)C1=CC=C(C=C1)C)O)C(F)(F)F | C16H14F4O4S
